US08664213B2
To potassium carbonate (76 mg) taken in ethanol (2.0 mL), a solution of 2,6-diazaspiro[3.3]heptane (220 mg in 2.0 ml of ethanol) was added at room temperature. The reaction mixture was stirred for 30 minutes at room temperature and a solution of 5-chloro-1-phenyl tetrazole (0.1 g) in ethanol (2.0 mL) was added very slowly. The reaction mixture was allowed to stir for 5 hours at room temperature. The reaction mixture was evaporated to give a residue which was partitioned between water (10 mL) and EtOAc (20 mL). The aqueous layer was extracted with ethyl acetate (3×20 mL). The combined organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure gave crude product which was purified by column chromatography using methanol\dichloromethane (1:9) as eluent to afford 2-(1-phenyl-1H-tetrazol-5-yl)-2,6-diazaspiro[3.3]heptane (50 mg).

reactant | potassium carbonate | 76 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-diazaspiro[3.3]heptane | 2.0 ml, 220 mg | C1NCC12CNC2 | C5H10N2
reactant | 5-chloro-1-phenyl tetrazole | 0.1 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 2-(1-phenyl-1H-tetrazol-5-yl)-2,6-diazaspiro[3.3]heptane | 50 mg | C1(=CC=CC=C1)N1N=NN=C1N1CC2(C1)CNC2 | C12H14N6
